US09290519B2
Preparation of 7-(6-(((2,6-diisopropylphenyl)amino)methyl)pyridin-2-yl)-N-phenyl-2,3-dihydro-1H-inden-1-amine
A solution of 2.21 g (21.0 mmol) of Na2CO3 in a mixture of 80 ml of water and 25 ml of methanol was purged with argon for 30 min. The obtained solution was added to a mixture of 2.80 g (8.40 mmol) of N-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-amine, 2.90 g (8.40 mmol) of N-[(6-bromopyridin-2-yl)methyl]-2,6-diisopropylaniline, 0.48 g (0.40 mmol) of Pd(PPh3)4, and 120 ml of toluene. This mixture was stirred for 12 h at 70° C., then cooled to room temperature. The organic layer was separated, the aqueous layer was extracted with 3×50 ml of ethyl acetate. The combined organic extract was washed with brine, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate-triethylamine=100:5:1, vol.). Yield 2.00 g (50%) of a yellow oil. Anal. calc. For C33H37N3: C, 83.33; H, 7.84; N, 8.83. Found: C, 83.49; H, 7.66; N, 8.65. 1H NMR (CDCl3): δ 7.56-7.61 (m, 3H, 6-H in indane and 4.5-H in Py); 7.46-7.51 (m, 2H, 3,5-H in phenyl); 7.14-7.16 (m, 1H, 4-H in indane); 7.08-7.12 (m, 5H, 3-H in Py, 3,4,5-H in 2,6-diisopropylphenyl and 5-H in indane); 6.65 (m, 1H, 4-H in phenyl); 6.53 (m, 2H, 2,6-H in phenyl); 5.21-5.22 (m, 1H, 1-H in indane); 3.95-4.15 (m, 4H, CH2NH and NH-phenyl and NH-2,6-diisopropylphenyl); 3.31 (sept, J=6.8 Hz, 2H, CH in 2,6-diisopropylphenyl); 3.16-3.24 (m, 1H, 3- or 3′-H in indane); 2.91-2.97 (m, 1H, 3′- or 3-H in indane); 2.21-2.37 (m, 2H, 2,2′-H in indane); 1.19-2.21 (m, 12H, CH3 in 2,6-diisopropylaniline).

reactant | Na2CO3 | 21.0 mmol, 2.21 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N-phenyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-amine | 8.40 mmol, 2.80 g | C1(=CC=CC=C1)NC1CCC2=CC=CC(=C12)B1OC(C(O1)(C)C)(C)C | C21H26BNO2
reactant | N-[(6-bromopyridin-2-yl)methyl]-2,6-diisopropylaniline | 8.40 mmol, 2.90 g | BrC1=CC=CC(=N1)CNC1=C(C=CC=C1C(C)C)C(C)C | C18H23BrN2
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd(PPh3)4 | 0.40 mmol, 0.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(6-(((2,6-diisopropylphenyl)amino)methyl)pyridin-2-yl)-N-phenyl-2,3-dihydro-1H-inden-1-amine | C(C)(C)C1=C(C(=CC=C1)C(C)C)NCC1=CC=CC(=N1)C=1C=CC=C2CCC(C12)NC1=CC=CC=C1 | C33H37N3
